US07851493B2
0.44 g [2-(4-Methoxy-phenyl)-5-(tetrahydro-pyran-2-yloxymethyl)-oxazol-4-yl]-methanol were dissolved in 30 ml dichloromethane and cooled in an ice bath. 0.29 ml triethylamine were added, followed by the addition of 0.13 ml methanesulfonylchloride. The reaction mixture was stirred at 0° C. for one hour then the ice bath was removed and the resulting mixture stirred at room temperature for an additional hour. The reaction mixture was then washed with water and brine, dried over MgSO4 and the solvent removed in vacuo to obtain 0.55 mg of methanesulfonic acid 2-(4-methoxy-phenyl)-5-(tetrahydro-pyran-2-yloxymethyl)-oxazol-4-ylmethyl ester as an oil which was used without further purification.

reactant | [2-(4-Methoxy-phenyl)-5-(tetrahydro-pyran-2-yloxymethyl)-oxazol-4-yl]-methanol | 0.44 g | COC1=CC=C(C=C1)C=1OC(=C(N1)CO)COC1OCCCC1 | C17H21NO5
reactant | triethylamine | 0.29 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonylchloride | 0.13 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | methanesulfonic acid 2-(4-methoxy-phenyl)-5-(tetrahydro-pyran-2-yloxymethyl)-oxazol-4-ylmethyl ester | 0.55 mg | COC1=CC=C(C=C1)C=1OC(=C(N1)COS(=O)(=O)C)COC1OCCCC1 | C18H23NO7S
